US05391795
A round bottomed flask equipped with a reflux condenser and magnetic stirrer was charged with 6.36 g (20 mmol) of 4,6-dibenzoylresorcinol, as prepared in Example 1, and 22 ml of 1.0N aqueous NaOH. 63 mg of tetrabutylammonium bromide and 10.0 ml of allyl chloride were added to produce a reaction mixture. The reaction mixture was stirred vigorously and heated at reflux for about 5 hours. Excess allyl chloride was distilled and recovered and 1 ml of 5% aqueous HCl was added to neutralize any excess base. The resulting solid was filtered and recrystallized from an ethanol/chloroform mixture to yield 4.8 g (67%) of 2-allyl-4,6-dibenzoylresorcinol.

reactant | 4,6-dibenzoylresorcinol | 20 mmol, 6.36 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(O)C(=C1)C(C1=CC=CC=C1)=O)O | C20H14O4
reactant | NaOH | 1.0N, 22 ml | [OH-].[Na+]
reactant | allyl chloride | 10.0 ml | C(C=C)Cl | C3H5Cl
catalyst | tetrabutylammonium bromide | 63 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-allyl-4,6-dibenzoylresorcinol | 4.8 g, 67% | C(C=C)C1=C(O)C(=CC(=C1O)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C23H18O4
